US08022206B2
1-(4-Bromo-2,6-dichlorophenyl)ethanol
The title compound was prepared from 4-bromo-2,6-dichlorobenzaldehyde (prepared according to WO 2008/021851) by reaction with methylmagnesium bromide following the procedure for 1-(3-bromo-5-fluorophenyl)ethanol as described.

reactant | 4-bromo-2,6-dichlorobenzaldehyde | BrC1=CC(=C(C=O)C(=C1)Cl)Cl | C7H3BrCl2O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | 1-(3-bromo-5-fluorophenyl)ethanol | BrC=1C=C(C=C(C1)F)C(C)O | C8H8BrFO
product | 1-(4-Bromo-2,6-dichlorophenyl)ethanol | BrC1=CC(=C(C(=C1)Cl)C(C)O)Cl | C8H7BrCl2O
